US04690931
1. 2-(4-Benzylpiperidino)-4'-palmitoyloxypropiophenone
6.5 g of palmitoyl chloride are added to 40 ml of pyridine containing 7 g of 2-(4-benzylpiperidino)-4'-hydroxypropiophenone and the mixture is stirred for 5 hours. It is diluted with 100 ml of diethyl ether and left to stand overnight. The precipitate is then collected by filtration, washed and dried. 11 g of a product which melts at 185°-192° C. with decomposition are thus isolated.

reactant | palmitoyl chloride | 6.5 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | pyridine | 40 ml, 7 g | N1=CC=CC=C1 | C5H5N
reactant | 2-(4-benzylpiperidino)-4'-hydroxypropiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)O)C | C21H25NO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-(4-Benzylpiperidino)-4'-palmitoyloxypropiophenone | 11 g | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)OC(CCCCCCCCCCCCCCC)=O)C | C37H55NO3
